US08609689B2
430 mg (2.63 mM) of N2-(cyclopropylmethyl)pyridine-2,3-diamine and 485.4 mg (2.63 mM) of (4-chlorophenyl)(oxo)acetic acid in 6 ml of methanal were refluxed for 16 h. A solid crystallized. The compound was filtered and washed with methanol to give 300 mg of 2-(4-chlorophenyl)-4-(cyclopropylmethyl)pyrido[2,3-b]pyrazin-3(4H)-one as a beige solid. Yield: 36.5%.

reactant | N2-(cyclopropylmethyl)pyridine-2,3-diamine | 2.63 mM, 430 mg | C1(CC1)CNC1=NC=CC=C1N | C9H13N3
reactant | (4-chlorophenyl)(oxo)acetic acid | 2.63 mM, 485.4 mg | ClC1=CC=C(C=C1)C(C(=O)O)=O | C8H5ClO3
solvent | methanal | 6 ml | C=O | CH2O
product | 2-(4-chlorophenyl)-4-(cyclopropylmethyl)pyrido[2,3-b]pyrazin-3(4H)-one | 300 mg, Yield: 36.5% | ClC1=CC=C(C=C1)C1=NC2=C(N(C1=O)CC1CC1)N=CC=C2 | C17H14ClN3O
